US06410562B1
2.56 g (10 mmol) 5-chloro-2-methyl-1-benzylindole was treated with 1.28 g (10 mmol) 1-acetyl-imidazolidin-2-one and 10 ml phosphorous oxychloride as described in Example 89, Step 1 to give 0.65 g (18%) 3-(4,5-dihydro-1H-imidazol-2-yl)-5-chloro-2-methyl-1-benzyl-1H-indole Hydrochloride, mp: 273-275°, MS (Ei 70 eV) m/Z M+323.

reactant | 5-chloro-2-methyl-1-benzylindole | 10 mmol, 2.56 g | ClC=1C=C2C=C(N(C2=CC1)CC1=CC=CC=C1)C | C16H14ClN
reactant | 1-acetyl-imidazolidin-2-one | 10 mmol, 1.28 g | C(C)(=O)N1C(NCC1)=O | C5H8N2O2
solvent | phosphorous oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-(4,5-dihydro-1H-imidazol-2-yl)-5-chloro-2-methyl-1-benzyl-1H-indole Hydrochloride | 0.65 g, 18% | Cl.N1C(=NCC1)C1=C(N(C2=CC=C(C=C12)Cl)CC1=CC=CC=C1)C | InChI=1S/C19H18ClN3.ClH/c1-13-18(19-21-9-10-22-19)16-11-15(20)7-8-17(16)23(13)12-14-5-3-2-4-6-14;/h2-8,11H,9-10,12H2,1H3,(H,21,22);1H
